US07452911B2
2.1a 3-(4-hydroxymethyl-phenyl)-propionaldehyde
10.5 mL (152.8 mmol) allylalcohol, 18.8 g (62.2 mmol) Tetrabutylammonium chloride monohydrate, 12.8 g (152.8 mmol) NaHCO3 and 0.75 g (3.1 mmol) Pd(OAc)2 is added to a solution of 15.0 g (62.2 mmol) 4-iodobenzylalcohol in 100 mL DMF at RT under an N2 atmosphere and the reaction solution is heated to 60° C. for 3 h. The solvent is eliminated i.vac., the residue combined with 250 mL EtOAc and 80 mL water and suction filtered through a fibreglass filter. 80 mL NaCl solution are added to the filtrate, the phases are separated and the organic phase is dried over MgSO4. After the desiccant and solvent have been eliminated the residue is purified by column chromatography on silica gel (gradient: cyc/EtOAc 3:1 after cyc/EtOAc 1:1).

reactant | allylalcohol | 152.8 mmol, 10.5 mL | C(C=C)O | C3H6O
reactant | NaHCO3 | 152.8 mmol, 12.8 g | C(=O)(O)[O-].[Na+]
reactant | 4-iodobenzylalcohol | 62.2 mmol, 15.0 g | IC1=CC=C(CO)C=C1 | C7H7IO
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
catalyst | Tetrabutylammonium chloride monohydrate | 62.2 mmol, 18.8 g | O.[Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 3.1 mmol, 0.75 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 80 mL | O | H2O
product | 3-(4-hydroxymethyl-phenyl)-propionaldehyde | OCC1=CC=C(C=C1)CCC=O | C10H12O2
